US07109340B2
tert-Butyl 4-(diazoethoxycarbonylmethyl)-3,6-dihydro-2H-pyridine-1-carboxylate
78.0 ml of dry pyridine are added to a solution of 15.12 g of tert-butyl 4-(diazoethoxycarbonylmethyl)-4-hydroxypiperidine-1-carboxylate into 250 ml of iPr2O. The mixture is cooled to −10° C. and 8.86 ml of POCl3 are added slowly with vigorous stirring. The mixture is then left to return to ambient temperature for 12 hours with stirring. The reaction mixture is decomposed with 500 ml of a 0.1M NaOH solution, and is then extracted 3 times with EtOAc. The organic phase is washed with a saturated NaCl solution and dried over MgSO4. The hydrated salt is removed by filtration and the dry filtrate is concentrated under reduced pressure to 1/10 of its initial volume. LC/MS:RT=4.57; [M+1]+=296.31. The product is used as it is for the subsequent step.

reactant | tert-butyl 4-(diazoethoxycarbonylmethyl)-4-hydroxypiperidine-1-carboxylate | 15.12 g | [N+](=[N-])=CCOC(=O)CC1(CCN(CC1)C(=O)OC(C)(C)C)O | C14H23N3O5
reactant | iPr2O | 250 ml | O(C(C)C)C(C)C | C6H14O
reactant | POCl3 | 8.86 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 0.1M | [OH-].[Na+]
solvent | pyridine | 78.0 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-(diazoethoxycarbonylmethyl)-3,6-dihydro-2H-pyridine-1-carboxylate | [N+](=[N-])=CCOC(=O)CC=1CCN(CC1)C(=O)OC(C)(C)C | C14H21N3O4
